### PR TITLE
[Merged by Bors] - feat: add competely normal (non-Hausdorff) property

### PR DESCRIPTION
**Pull request by StevenClontz**
This conribution adds a distinct notion of a (non-Hausdorff) completely normal space, and disintangles relevant results that do not require Hausdorff.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Separation.lean [hunk 1]
```diff
@@ -909,6 +911,38 @@ instance (priority := 100) ConnectedSpace.neBot_nhdsWithin_compl_of_nontrivial_o
...
+    have xspecy : x ⤳ y := (Inducing.specializes_iff ?hf).mp sxspecsy
+    have yspecx : y ⤳ x := h xspecy
+    have : Inseparable x y := by
+      rw [inseparable_iff_specializes_and]
+      exact ⟨ xspecy, yspecx ⟩
+    have : mk x = mk y := by
+      rw [mk_eq_mk]
+      exact this
+    rw [← hx, ← hy]
+    exact this
```
Comment (rosborn) [inline Mathlib/Topology/Separation.lean:944]:
```suggestion
theorem SeparationQuotient.t1Space_iff : T1Space (SeparationQuotient X) ↔ R0Space X := by
  rw [r0Space_iff, Symmetric]
  have hind : Inducing (mk : X → SeparationQuotient X) := SeparationQuotient.inducing_mk
  have := (t1Space_TFAE (SeparationQuotient X)).out 0 9
  rw [this]
  constructor
  · intro h x y xspecy
    rw [← Inducing.specializes_iff hind] at *
    rw [h xspecy]
  · intro h sx sy sxspecsy
    rcases Quotient.exists_rep sx with ⟨ x, rfl ⟩
    rcases Quotient.exists_rep sy with ⟨ y, rfl ⟩
    suffices Inseparable x y by rwa [Quotient.sound]
    rw [inseparable_iff_specializes_and]
    have xspecy : x ⤳ y := (Inducing.specializes_iff hind).mp sxspecsy
    have yspecx : y ⤳ x := h xspecy
    exact ⟨ xspecy, yspecx ⟩
```
I am no means an expert, but I thought I'd leave some general advice.
When using `(Inducing.specializes_iff ?hf).mp sxspecsy`, the `?hf` becomes a new goal. I'm honestly not sure how `have : ∀ x y : X, x ⤳ y → mk x ⤳ mk y` was allowing lean to close that goal on its own, but in general this is poor style. I replaced it with `have hind : Inducing (mk : X → SeparationQuotient X) := SeparationQuotient.inducing_mk` which I used in place of `?hf`.
Instead of `have : mk x ⤳ mk y := (Inducing.specializes_iff ?hf).mpr xspecy` and adding the context, it's usually best to use `simp at xspecy` or `rw at xspecy` to massage it into the form you need. In this case, I used `rw at *` to rewrite both the goal and `xspecy`.
With `rcases Quotient.exists_rep`, I used `rfl` to rewrite `sx` and `sy` and avoided rewriting to `mk`.
From there, I just reorganized the argument to follow more linearly.

Comment (StevenClontz) [reply Mathlib/Topology/Separation.lean:944]: Thanks! I'll walk through this myself and use it (I also have some feedback in Zulip that I'll work through as well).

**Comment by StevenClontz** [comment]
Oh, apparently mathlib doesn't know that [totally disconnected spaces are T1](https://topology.pi-base.org/spaces?q=Totally+Disconnected%2B%7E%24T_1%24). Will address that now.

**Comment by StevenClontz** [comment]
No clue why CI choked on 2ab0be8358a542996f1e5526a75721851622e0d7 and fb132c0d9d93f6c0377bc3311d9fc5b28d939ade but not f40a3033fd2af7c99ae3eccf2941eea145f9309c (and on files I didn't touch), but ah well. I believe this is now ready for review.

File: Mathlib/Topology/Separation.lean [hunk 2]
```diff
@@ -909,6 +919,17 @@ instance (priority := 100) ConnectedSpace.neBot_nhdsWithin_compl_of_nontrivial_o
     contra (compl_union_self _) (Set.nonempty_compl_of_nontrivial _) (singleton_nonempty _)
   simp [compl_inter_self {x}] at contra
 
+theorem SeparationQuotient.t1Space_iff : T1Space (SeparationQuotient X) ↔ R0Space X := by
+  rw [r0Space_iff, ((t1Space_TFAE (SeparationQuotient X)).out 0 9 :)]
+  constructor
+  · intro h x y xspecy
+    rw [← Inducing.specializes_iff inducing_mk, h xspecy] at *
```
Comment (PatrickMassot) [inline Mathlib/Topology/Separation.lean:926]: Are you sure this `at *` is necessary here? I don’t see how rewriting in an assumption could have any effect here.

File: Mathlib/Topology/Separation.lean [hunk 3]
```diff
@@ -2247,37 +2268,54 @@ end Normality
 
 section CompletelyNormal
 
-/-- A topological space `X` is a *completely normal Hausdorff space* if each subspace `s : Set X` is
-a normal Hausdorff space. Equivalently, `X` is a `T₁` space and for any two sets `s`, `t` such that
+/-- A topological space `X` is a *completely normal space* if each subspace `s : Set X` is
+a normal space. Equivalently, for any two sets `s`, `t` such that
 `closure s` is disjoint with `t` and `s` is disjoint with `closure t`, there exist disjoint
 neighbourhoods of `s` and `t`. -/
```
Comment (PatrickMassot) [inline Mathlib/Topology/Separation.lean:2274]: Could you please use the opportunity to say in the docstring what are the lemmas that give the facts you quote? The current docstring mentions two facts and none of them is exactly the definition used in this declaration.

File: Mathlib/Topology/Separation.lean (hunk 2 above)
Comment (StevenClontz) [reply Mathlib/Topology/Separation.lean:926]: `rw [← Inducing.specializes_iff] at *` rewrites both the goal `⊢ y ⤳ x` and the assumption `xspecy : x ⤳ y` to `⊢ mk y ⤳ mk x` and `xspecy : mk x ⤳ mk y`.

Then a `rw [h xspecy]` (without `*`) closes the goal by rewriting `⊢ mk y ⤳ mk x` to `⊢ mk y ⤳ mk y`.

Let me know if mathlib style prefers those on separate lines.

File: Mathlib/Topology/Separation.lean [hunk 4]
```diff
@@ -2247,37 +2275,53 @@ end Normality
...
+    CompletelyNormalSpace (ULift X) :=
+  embedding_uLift_down.completelyNormalSpace
+
+/-- A T₅ space is a normal T₁ space. -/
+class T5Space (X : Type u) [TopologicalSpace X] extends T1Space X, CompletelyNormalSpace X : Prop
+#align t5_space T5Space
+
+theorem Embedding.t5Space [TopologicalSpace Y] [T5Space Y] {e : X → Y} (he : Embedding e) :
+    T5Space X where
+  t1 := ((t1Space_TFAE X).out 0 1).mp he.t1Space
```
Comment (fpvandoorn) [inline Mathlib/Topology/Separation.lean:2320]:
```suggestion
  __ := he.t1Space
```
(this is notation for specifying a parent class. An alternative is `toT1Space := he.t1Space`)

**Review by fpvandoorn — COMMENTED** [review]
This looks good! Here are some comments

File: Mathlib/Topology/Separation.lean [hunk 5]
```diff
@@ -2247,37 +2275,53 @@ end Normality
...
-  embedding_subtype_val.t5Space
+/-- A subspace of a completely normal space is a completely normal space. -/
+instance [CompletelyNormalSpace X] {p : X → Prop} : CompletelyNormalSpace { x // p x } :=
+  embedding_subtype_val.completelyNormalSpace
 
-instance ULift.instT5Space [T5Space X] : T5Space (ULift X) :=
-  embedding_uLift_down.t5Space
+instance ULift.instCompletelyNormalSpace [CompletelyNormalSpace X] :
+    CompletelyNormalSpace (ULift X) :=
+  embedding_uLift_down.completelyNormalSpace
```
[the remark this answers is not in the document]
Comment (StevenClontz) [reply Mathlib/Topology/Separation.lean:2312]: Addressed in [185ffa4](https://github.com/leanprover-community/mathlib4/pull/12458/commits/185ffa4c9562e7c34ac02a3e00f080476e1d518e) I believe. Thanks for the details on what's happening here.

File: Mathlib/Topology/Separation.lean [hunk 6]
```diff
@@ -26,22 +26,31 @@ This file defines the predicate `SeparatedNhds`, and common separation axioms
...
-  then `s` and `t` have disjoint neighborhoods.
+* `CompletelyNormalSpace`: A completely normal space is one in which for any two sets `s`, `t`
+  such that if both `closure s` is disjoint with `t`, and `s` is disjoint with `closure t`,
+  then there exist disjoint neighbourhoods of `s` and `t`. `Embedding.completelyNormalSpace` allows
+  us to conclude that this is equivalent to all subspaces being normal. Such a space is not
+  necessarily Hausdorff or regular, even if it is T₀.
+* `T5Space`: A T₅ space is a completely normal T₁ space. T₅ implies T₄.
+
+Note that `mathlib` adopts the modern convention that `m ≤ n` if and only if `T_m → T_n`, but
+occassionally the literature swaps definitions for e.g. T₃ and regular.
```
Comment (kbuzzard) [inline Mathlib/Topology/Separation.lean:53]:
```suggestion
occasionally the literature swaps definitions for e.g. T₃ and regular.
```

**Review by kbuzzard — APPROVED** [review]
LGTM!
